US04039676
The solution of 5 g of 1-[3-(1,4-benzodioxan-2-yl)-propionyl]-4-hydroxy-4-phenylpiperidine in 50 ml of tetrahydrofuran is added to the stirred mixture of 2 g of lithium aluminum hydride and 50 ml of tetrahydrofuran at room temperature. Stirring is continued for 12 hours, whereupon the reaction mixture is decomposed with a few drops of ethyl acetate, 2 ml of water, 4 ml of 15% aqueous sodium hydroxide and 4 ml of water. It is filtered, the filtrate evaporated and the residue recrystallized from isopropanol, to yield the 2-[3-(4-hydroxy-4-phenylpiperidino)propyl]-1,4-benzodioxan melting at 95°-98°. The hydrochloride thereof is prepared in the above illustrated manner and recrystallized from isopropanol, mp. 155°-157°.

reactant | 1-[3-(1,4-benzodioxan-2-yl)-propionyl]-4-hydroxy-4-phenylpiperidine | 5 g | O1C(COC2=C1C=CC=C2)CCC(=O)N2CCC(CC2)(C2=CC=CC=C2)O | C22H25NO4
reactant | lithium aluminum hydride | 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2 ml | O | H2O
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | water | 4 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | ethyl acetate | a few drops | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[3-(4-hydroxy-4-phenylpiperidino)propyl]-1,4-benzodioxan | OC1(CCN(CC1)CCCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | C22H27NO3
